US04891364
In 600 ml of pyridine, 9.13 g of 1α-hydroxydehydroepiandrosterone was suspended. Under an argon stream, 100 ml of triethylamine and 39.0 g of triethyl chlorosilane were added to the suspension, and the mixture was stirred for 24 hours at room temperature. After adding 500 ml of water, the solvent was distilled off under vacuum. The residue was subjected to extraction with benzene. The benzene layer was successively washed with an aqueous solution of 0.5N HCl, water, saturated sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. The residue obtained by distilling off the solvent under vacuum was subjected to silica gel column chromatography and eluted with chloroform, whereby 9.64 g of 1α,3β-bis(triethylsilyloxy)-5-androsten-17-one was obtained as a pale yellow crystal. Part of the compound was recrystallized from methanol to give colorless needles having a melting point of 99°-100° C.

reactant | 1α-hydroxydehydroepiandrosterone | 9.13 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC=C4[C@@]3([C@H](C[C@@H](C4)O)O)C | C19H28O3
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
reactant | triethyl chlorosilane | 39.0 g | C(C)[Si](Cl)(CC)CC | C6H15ClSi
reactant | water | 500 ml | O | H2O
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
product | 1α,3β-bis(triethylsilyloxy)-5-androsten-17-one | 9.64 g | C(C)[Si](O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)O[Si](CC)(CC)CC)(CC)CC | C31H56O3Si2
